US04851526
4-Fluorophenyl-(hexahydro-1-butyl-1H-azepin-3-yl)methanone
To 25 mL of dry ether under N2 add 2 g (11 mmol) of 1-bromo-4-fluorobenzene and 0.25 g (0.10 mmol) of magnesium turnings. Initiate the reaction by standard procedures. When the magnesium filings are gone add 1 g (8.0 mmol) of 1-butyl-hexahydro-1H-azepine-3-carbonitrile and reflux the reaction mixture. Monitor the reaction by thin-layer chromatography. Upon completion add 50 mL 1M HCl and stir for one hr. The layers are separated and the aqueous layer is extracted with methylene chloride (25 mL). Add 4N NaOH to the aqueous layer until basic and extract with methylene chloride. Dry the organic phase over Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 1-bromo-4-fluorobenzene | 11 mmol, 2 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | magnesium | 0.10 mmol, 0.25 g | [Mg] | Mg
reactant | 1-butyl-hexahydro-1H-azepine-3-carbonitrile | 8.0 mmol, 1 g | C(CCC)N1CC(CCCC1)C#N | C11H20N2
reactant | HCl | 1M, 50 mL | Cl | ClH
reactant | ether | 25 mL | CCOCC | C4H10O
product | 4-Fluorophenyl-(hexahydro-1-butyl-1H-azepin-3-yl)methanone | FC1=CC=C(C=C1)C(=O)C1CN(CCCC1)CCCC | C17H24FNO
